US08541579B2
A solution of methyl N-{(1R)-1-(2,4-difluorophenyl)-2-[(2-hydroxyphenyl)amino]-2-oxoethyl}-L-leucinate (203 mg) and 1,1′-thiocarbonyldiimidazole (100 mg) in dichloromethane (5 ml) was left to stand for 18 hours. Water (10 l) was added to the reaction mixture and this was then stirred rapidly for 30 minutes. After this, 1H-Benzotriazolium, 1-[bis(dimethylamino)methylene]-, tetrafluoroborate (1-), 3-oxide (TBTU, 321 mg) and a solution of dimethylamine in tetrahydrofuran (0.5 ml of 2M solution) were added. The reaction mixture was stirred for a further 18 hours and was then passed down an SPE (5 g, silica) eluting with a gradient (8:1 to 1:2 cyclohexane:ethyl acetate). The required fractions were combined and evaporated to furnish methyl N-[1-(2,4-difluorophenyl)-2-(dimethylamino)-2-oxoethyl]-L-leucinate (100 mg).

reactant | methyl N-{(1R)-1-(2,4-difluorophenyl)-2-[(2-hydroxyphenyl)amino]-2-oxoethyl}-L-leucinate | 203 mg | FC1=C(C=CC(=C1)F)[C@H](C(=O)NC1=C(C=CC=C1)O)N[C@@H](CC(C)C)C(=O)OC | C21H24F2N2O4
reactant | 1,1′-thiocarbonyldiimidazole | 100 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 1H-Benzotriazolium | [NH2+]1N=NC2=C1C=CC=C2
reactant | tetrafluoroborate | F[B-](F)(F)F
reactant | dimethylamine | CNC | C2H7N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2M, 0.5 ml | O1CCCC1 | C4H8O
solvent | Water | 10 l | O | H2O
product | methyl N-[1-(2,4-difluorophenyl)-2-(dimethylamino)-2-oxoethyl]-L-leucinate | 100 mg | FC1=C(C=CC(=C1)F)C(C(=O)N(C)C)N[C@@H](CC(C)C)C(=O)OC | C17H24F2N2O3
